US05438064
4-[(4-Carboxyphenyl)amino]-7-chloro-3-quinolinecarboxylic acid ethyl ester hydrochloride (40.0 g, 98.2 mmol), 1-hydroxybenzotriazole hydrate (16.2 g, 120 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (24.5 g, 128 mmol) were stirred in 560 ml of DMF and treated with triethylamine (39.8 g, 54.8 ml, 393 mmol) followed by 4-amino-1-benzylpiperidine (20.6 g, 22.0 ml, 108 mmol). The reaction mixture was heated at 85° C. for 3.5 h, poured into 1.3 L of CH2Cl2 and washed with 3×500 ml of water. The organic phase was dried over Na2SO4 and concentrated in vacuo for 3 days. This afforded 51.7 g (95.2 mmol, 97% yield) of 7 -chloro-4-[[4 -[[[1-(phenylmethyl)-4-piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxylic acid ethyl ester as a yellow solid.

reactant | 4-[(4-Carboxyphenyl)amino]-7-chloro-3-quinolinecarboxylic acid ethyl ester hydrochloride | 98.2 mmol, 40.0 g | Cl.C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1NC1=CC=C(C=C1)C(=O)O)Cl
reactant | 1-hydroxybenzotriazole hydrate | 120 mmol, 16.2 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 128 mmol, 24.5 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 393 mmol, 54.8 ml, 39.8 g | C(C)N(CC)CC | C6H15N
reactant | 4-amino-1-benzylpiperidine | 108 mmol, 22.0 ml, 20.6 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
solvent | DMF | 560 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 1.3 L | C(Cl)Cl | CH2Cl2
product | 7 -chloro-4-[[4 -[[[1-(phenylmethyl)-4-piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxylic acid ethyl ester | 95.2 mmol, 51.7 g, 97% yield | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1NC1=CC=C(C=C1)C(=O)NC1CCN(CC1)CC1=CC=CC=C1)Cl | C31H31ClN4O3
